* cml-driver-eye -- one lane of the CML output driver against the DR-0002 load
*
* Netlist FRAGMENT. The harness supplies the title, the .include of the
* gf180mcu models, the corner .lib sections, .temp, the .include of the DUT
* (design/netlist/cml_driver.spice, named by tb.json's "dut" key), the
* .control block (analyses + measurements) and .end. Parameters provided by
* the harness (sim/harness/README.md): vdd_val/vdd_nom, temp_c and -- because
* this testbench's manifest declares a `rates_mbps` axis -- rate_val
* (Mbps/lane for this grid point).
*
* ---------------------------------------------------------------------------
* WHICH RAIL THE MANDATED +/-10 % SUPPLY AXIS IS APPLIED TO
* ---------------------------------------------------------------------------
* The driver is open-drain (DR-0002): it has no positive rail of its own. Two
* distinct 3.3 V rails touch this experiment and they are NOT the same rail:
*
*   vdd_val  -- the on-chip 3.3 V core rail this block owns. It powers the
*               DR-0003 custom 2:1 final multiplexer, so it sets the
*               differential input levels this cell is driven from. The
*               harness's mandated +/-10 % supply axis is applied HERE, to
*               the rail this block is responsible for: `vih`/`vil` below
*               are fixed fractions of vdd_val, so a 10 % low rail delivers
*               a 10 % smaller gate drive and the steering margin is
*               genuinely stressed at every corner.
*
*   avcc     -- the RECEIVER's termination rail, in the sink device on the
*               far side of the link, pulled up through the 50 ohm/leg
*               termination (DR-0002). It is a different power domain in a
*               different device; it is held at its nominal 3.3 V for the
*               DR-0002 swing/common-mode rows, because DR-0002's 2.8-3.3 V
*               common-mode window is an ABSOLUTE window and the output
*               common mode tracks avcc 1:1 by construction
*               (vcm = avcc - I_tail*R/2). Two extra copies below (`_vlo`,
*               `_vhi`) run the same driver at avcc -10 %/+10 % so that
*               sensitivity is measured and reported rather than assumed --
*               see the record and design/cml-driver-sizing.md. The `_vhi`
*               copy is also where worst-case device stress is measured,
*               since the highest termination rail is the worst case for
*               Vds/Vgd on the switching devices.
*
* ---------------------------------------------------------------------------
* INPUT MODEL (an assumption this cell's results are conditional on)
* ---------------------------------------------------------------------------
* The DR-0003 custom 2:1 final multiplexer is a separate cell and a follow-on
* issue. It is modelled here as an ideal differential source with:
*
*   - single-ended levels vih = 0.85*vdd_val, vil = 0.55*vdd_val
*     (2.805 V / 1.815 V at the nominal rail), i.e. a single-ended swing of
*     0.30*vdd_val ~ 1.0 V p-p and a common mode of 0.70*vdd_val ~ 2.31 V,
*     scaling with its own supply as a resistively-loaded 3.3 V-domain stage
*     does;
*   - a 80 ps linear edge (the ramp between those levels), at BOTH bit rates
*     -- the multiplexer is designed for the 742.5 Mbps target and is not
*     assumed to slow down at the 270 Mbps fallback;
*   - zero source impedance and zero jitter, so every picosecond of jitter
*     measured at the output is contributed by this stage.
*
* design/cml-driver-sizing.md states this as a requirement levied on the
* multiplexer, with the margin behind each number.
*
* ---------------------------------------------------------------------------
* STIMULUS (sim/README.md's stimulus convention)
* ---------------------------------------------------------------------------
* `mixed-run-length-16b`: a 16-bit repeating pattern, MSB first at t = 0,
*
*     1 1 1 1 1 1 1 1 1 0 1 0 1 0 1 0
*
* i.e. a nine-bit run followed by maximum-transition-density alternation.
* The alternating section is the worst-case ISI stimulus a DC-balanced
* 8b/10b-style code can present (sim/README.md's `worst-case-101010`); the
* nine-bit run in front of it adds the low-transition-density history that
* makes data-dependent jitter measurable at all -- the first edge after the
* run leaves a fully settled level, every edge in the alternating section
* does not. Pattern-dependent edge displacement between those two cases is
* exactly the deterministic jitter this stage contributes, and it is why this
* testbench does not use a plain square wave. (sim/README.md also names a
* `prbs7` option; a 127-bit PRBS needs ~127 UI of transient per rate and
* buys nothing here, because with an ideal jitter-free input the jitter this
* stage adds is deterministic -- ISI plus rise/fall asymmetry -- and both are
* excited by the pattern above. Random jitter is not a transient-simulation
* quantity at all; see the record's caveat.)
*
* Every transition ramps over `tedge` starting at an exact multiple of the
* bit period, so the input's own differential zero crossings sit on the ideal
* bit grid. The measurement references the OUTPUT crossings against the
* INPUT crossings of the same edge index, so the ideal grid never has to be
* reconstructed from a formula.

.param tbit_s   = '1e-6/rate_val'
.param avcc_nom = 3.3
.param rterm    = 50
.param iref     = 500u
.param vih      = '0.85*vdd_val'
.param vil      = '0.55*vdd_val'
.param tedge    = 80p

* Measurement windows. Both cover bits 10..15 of the first pattern period --
* the steady-state maximum-transition-density section only. Both deliberately
* exclude the nine-bit run, where the output settles all the way to its DC
* levels: a window containing that run would report the DC swing and flatter
* every bandwidth-limited corner.
*
*   win  -- the whole alternating section. Used for peak-to-peak excursion
*           (vpp_*) and for device stress, where the transition instants must
*           NOT be excluded: gate-drain feedthrough during an edge pushes the
*           drain slightly past its settled level, and that excursion is part
*           of the stress the device actually sees.
*   winc -- a comb, high only over the central 40 % of each bit (0.3..0.7 UI).
*           Used for the DR-0002 swing and common-mode rows: those are levels
*           a receiver slices, so they are measured in the sampling window,
*           not at the peak of a switching spike.
.param twin_a = '10.2*tbit_s'
.param twin_b = '15.8*tbit_s'

* Static output level forced on the conducting leg of the two `_za`/`_zb`
* copies, for the two-point output-resistance extraction below.
.param vz_a = 2.60
.param vz_b = 3.00

* ---- rails ---------------------------------------------------------------
vavcc   avcc   0 dc {avcc_nom}
vavcclo avcclo 0 dc '0.9*avcc_nom'
vavcchi avcchi 0 dc '1.1*avcc_nom'

* ---- stimulus ------------------------------------------------------------
vinp inp 0 PWL(0 '{vih}'
+ '{9*tbit_s}'  '{vih}' '{9*tbit_s+tedge}'  '{vil}'
+ '{10*tbit_s}' '{vil}' '{10*tbit_s+tedge}' '{vih}'
+ '{11*tbit_s}' '{vih}' '{11*tbit_s+tedge}' '{vil}'
+ '{12*tbit_s}' '{vil}' '{12*tbit_s+tedge}' '{vih}'
+ '{13*tbit_s}' '{vih}' '{13*tbit_s+tedge}' '{vil}'
+ '{14*tbit_s}' '{vil}' '{14*tbit_s+tedge}' '{vih}'
+ '{15*tbit_s}' '{vih}' '{15*tbit_s+tedge}' '{vil}'
+ '{16*tbit_s-tedge}' '{vil}' '{16*tbit_s}' '{vih}'
+ r=0 td=0)
vinn inn 0 PWL(0 '{vil}'
+ '{9*tbit_s}'  '{vil}' '{9*tbit_s+tedge}'  '{vih}'
+ '{10*tbit_s}' '{vih}' '{10*tbit_s+tedge}' '{vil}'
+ '{11*tbit_s}' '{vil}' '{11*tbit_s+tedge}' '{vih}'
+ '{12*tbit_s}' '{vih}' '{12*tbit_s+tedge}' '{vil}'
+ '{13*tbit_s}' '{vil}' '{13*tbit_s+tedge}' '{vih}'
+ '{14*tbit_s}' '{vih}' '{14*tbit_s+tedge}' '{vil}'
+ '{15*tbit_s}' '{vil}' '{15*tbit_s+tedge}' '{vih}'
+ '{16*tbit_s-tedge}' '{vih}' '{16*tbit_s}' '{vil}'
+ r=0 td=0)

* Static input levels for the DC copies (`_z`, `_za`, `_zb`): permanently
* steered to the INP side, so the conducting device is the one on OUTP.
vinpz inpz 0 dc '{vih}'
vinnz innz 0 dc '{vil}'

* Differential input probe. ngspice's two-terminal v(a,b) probe syntax parses
* in print/let but NOT inside a `meas` TRIG/TARG expression (confirmed
* against ngspice-46 while developing sim/smoke-cml-pair); a 1x VCVS onto a
* real node is the documented workaround, not a design element. This node is
* the ideal-bit-grid reference every jitter measurement is taken against.
einref inref 0 inp inn 1

* Measurement-window gates: 0 outside the window, 1 inside. These exist so a
* `vecmax`/`vecmin` level measurement can be windowed from inside a control
* block, which has no access to the (rate-dependent) `.param` bounds.
vwin win 0 PWL(0 0 '{twin_a}' 0 '{twin_a+1p}' 1 '{twin_b}' 1 '{twin_b+1p}' 0)
vwinc winc 0 PWL(0 0
+ '{10.3*tbit_s}' 0 '{10.3*tbit_s+1p}' 1 '{10.7*tbit_s}' 1 '{10.7*tbit_s+1p}' 0
+ '{11.3*tbit_s}' 0 '{11.3*tbit_s+1p}' 1 '{11.7*tbit_s}' 1 '{11.7*tbit_s+1p}' 0
+ '{12.3*tbit_s}' 0 '{12.3*tbit_s+1p}' 1 '{12.7*tbit_s}' 1 '{12.7*tbit_s+1p}' 0
+ '{13.3*tbit_s}' 0 '{13.3*tbit_s+1p}' 1 '{13.7*tbit_s}' 1 '{13.7*tbit_s+1p}' 0
+ '{14.3*tbit_s}' 0 '{14.3*tbit_s+1p}' 1 '{14.7*tbit_s}' 1 '{14.7*tbit_s+1p}' 0
+ '{15.3*tbit_s}' 0 '{15.3*tbit_s+1p}' 1 '{15.7*tbit_s}' 1 '{15.7*tbit_s+1p}' 0)

* ---------------------------------------------------------------------------
* Driver copies. Every copy is the SAME cml_driver cell
* (design/netlist/cml_driver.spice) with the same ideal 500 uA bias
* reference; they differ only in pad capacitance and termination rail, so a
* difference between two copies in one log is a difference caused by that
* load, measured at the identical PVT point.
*
* Pad capacitance is swept in-deck rather than as a harness axis so that all
* three loads are measured at the identical corner, temperature, supply and
* bit rate in one ngspice invocation. `_c0` carries no explicit pad
* capacitance at all (the "0 pF" point is the cell's own drain parasitics
* against the 50 ohm termination); `_c1`/`_c2` add DR-0005's 1 pF and its
* full 2 pF budget.
* ---------------------------------------------------------------------------

* ---- 0 pF pad ------------------------------------------------------------
xc0 outp_c0 outn_c0 inp inn ib_c0 0 cml_driver
ib_c0src 0 ib_c0 dc {iref}
rp_c0 avcc outp_c0 {rterm}
rn_c0 avcc outn_c0 {rterm}
ediff_c0 vd_c0 0 outn_c0 outp_c0 1

* ---- 1 pF pad ------------------------------------------------------------
xc1 outp_c1 outn_c1 inp inn ib_c1 0 cml_driver
ib_c1src 0 ib_c1 dc {iref}
rp_c1 avcc outp_c1 {rterm}
rn_c1 avcc outn_c1 {rterm}
cp_c1 outp_c1 0 1p
cn_c1 outn_c1 0 1p
ediff_c1 vd_c1 0 outn_c1 outp_c1 1

* ---- 2 pF pad (DR-0005's full budget) ------------------------------------
xc2 outp_c2 outn_c2 inp inn ib_c2 0 cml_driver
ib_c2src 0 ib_c2 dc {iref}
rp_c2 avcc outp_c2 {rterm}
rn_c2 avcc outn_c2 {rterm}
cp_c2 outp_c2 0 2p
cn_c2 outn_c2 0 2p
ediff_c2 vd_c2 0 outn_c2 outp_c2 1

* ---- leg-to-leg pad mismatch: 2 pF on OUTP, 1 pF on OUTN -----------------
* Jitter sensitivity probe, not a nominal configuration. With perfectly
* matched legs a differential pair's finite bandwidth cancels at the
* differential zero crossing -- the two legs' ISI is antisymmetric -- so a
* matched-load jitter number says nothing about how much load MISMATCH the
* pad/ESD structure may have. This copy carries a deliberate 1 pF (i.e. 50 %
* of DR-0005's whole budget) leg-to-leg imbalance so the sensitivity
* d(jitter)/d(pad mismatch) is measured rather than assumed, and so the
* pad-ring work has a matching requirement to design to.
xcmis outp_cmis outn_cmis inp inn ib_cmis 0 cml_driver
ib_cmissrc 0 ib_cmis dc {iref}
rp_cmis avcc outp_cmis {rterm}
rn_cmis avcc outn_cmis {rterm}
cp_cmis outp_cmis 0 2p
cn_cmis outn_cmis 0 1p
ediff_cmis vd_cmis 0 outn_cmis outp_cmis 1

* ---- termination-rail sensitivity: avcc -10 %, 1 pF pad ------------------
xvlo outp_vlo outn_vlo inp inn ib_vlo 0 cml_driver
ib_vlosrc 0 ib_vlo dc {iref}
rp_vlo avcclo outp_vlo {rterm}
rn_vlo avcclo outn_vlo {rterm}
cp_vlo outp_vlo 0 1p
cn_vlo outn_vlo 0 1p

* ---- termination-rail sensitivity: avcc +10 %, 1 pF pad ------------------
* Also the worst-case device-stress copy: the highest termination rail is the
* highest drain voltage the switching devices ever see.
xvhi outp_vhi outn_vhi inp inn ib_vhi 0 cml_driver
ib_vhisrc 0 ib_vhi dc {iref}
rp_vhi avcchi outp_vhi {rterm}
rn_vhi avcchi outn_vhi {rterm}
cp_vhi outp_vhi 0 1p
cn_vhi outn_vhi 0 1p

* ---- static copy: DC swing, steering completeness, supply draw -----------
* `vsens_z` is a 0 V source used as an ammeter in the cell's ground return,
* so the whole-cell (= tail) current is a real branch current.
xz outp_z outn_z inpz innz ib_z vss_z cml_driver
ib_zsrc 0 ib_z dc {iref}
vsens_z vss_z 0 dc 0
rp_z avcc outp_z {rterm}
rn_z avcc outn_z {rterm}

* ---- static copies for the output-resistance extraction ------------------
* The conducting leg's drain is forced to two voltages inside the output's
* own operating range; the single-ended output resistance looking back into
* that leg is dV/dI between the two. Extracting it from the 50 ohm-loaded
* copies instead would mean resolving a ~0.05 % change in a 50 ohm parallel
* combination, which is not a measurement.
xza outp_za outn_za inpz innz ib_za 0 cml_driver
ib_zasrc 0 ib_za dc {iref}
vforce_za outp_za 0 dc {vz_a}
rn_za avcc outn_za {rterm}

xzb outp_zb outn_zb inpz innz ib_zb 0 cml_driver
ib_zbsrc 0 ib_zb dc {iref}
vforce_zb outp_zb 0 dc {vz_b}
rn_zb avcc outn_zb {rterm}
